US07727988B2
5-(6-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione (E58)
A solution of 3-[5-(6-Chloro-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep93, 0.82 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 186 mg, 0.82 mmol), and AcOH (58 μl) in dichloroethane-MeOH (10-0.1, 8 ml) was cooled to 0° C. NaBH(AcO)3 (182 mg, 0.86 mmol) was added portionwise. The mixture was stirred at 0° C. for further one hour and then basified with 1N NaOH. Brine was added and the product extracted with DCM. The organic phase was dried (Na2SO4) and evaporated. The residue was redissolved in DCM and stirred overnight in the presence of PS-isocyanate. The mixture was filtered and the solvent evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98:2:0.2) to give 140 mg of the title compound (34% yield).

reactant | 3-[5-(6-Chloro-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.82 mmol | ClC1=CC=C(C=N1)C=1C(NC(N(C1)CCC=O)=O)=O | C12H10ClN3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.82 mmol, 186 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | NaBH(AcO)3 | 0.86 mmol, 182 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane MeOH | 8 ml | ClC(C)Cl.CO
solvent | Brine | [Cl-].[Na+].O
solvent | AcOH | 58 μl | CC(=O)O | C2H4O2
product | 5-(6-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | 140 mg, 34% yield | ClC1=CC=C(C=N1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H22ClF3N4O2
